US05292740
Diethyl bromomalonate was converted with sodium m-methoxyphenolate in analogy to Example 1, paragraph c), into diethyl (m-methoxyphenoxy)malonate, colorless liquid. B.p. 143° C./0.05 Torr. The thus-obtained malonic ester was converted in analogy to Example 1, paragraph d), into 5-(m-methoxyphenoxy)-6-hydroxy-4(3H)-pyrimidinone from which in analogy to Example 1, paragraph e), there was prepared 4,6-dichloro-5-(m-methoxyphenoxy)pyrimidine, m.p. 109°-110° C. Reaction of the last-named compound with p-t-butylbenzenesulfonamide potassium yielded p-t-butyl-N-[6-chloro-5-(m-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide, m.p. 152° C. (from methanol).

reactant | Diethyl bromomalonate | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | sodium m-methoxyphenolate | COC=1C=C(C=CC1)[O-].[Na+]
reactant | diethyl (m-methoxyphenoxy)malonate | COC=1C=C(OC(C(=O)OCC)C(=O)OCC)C=CC1 | C14H18O6
reactant | 5-(m-methoxyphenoxy)-6-hydroxy-4(3H)-pyrimidinone | COC=1C=C(OC=2C(NC=NC2O)=O)C=CC1 | C11H10N2O4
reactant | 4,6-dichloro-5-(m-methoxyphenoxy)pyrimidine | ClC1=NC=NC(=C1OC1=CC(=CC=C1)OC)Cl | C11H8Cl2N2O2
reactant | p-t-butylbenzenesulfonamide potassium | [K].C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N
solvent | methanol | CO | CH4O
product | p-t-butyl-N-[6-chloro-5-(m-methoxyphenoxy)-4-pyrimidinyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NC(=C1OC1=CC(=CC=C1)OC)Cl | C21H22ClN3O4S
